US05248580
BBL can be prepared by a two step dehydrohalogenationpolycondensation sequence using 1,4,5,8-naphthalene tetracarboxylic acid (NTCA) and 1,2,4,5-tetraaminobenzene tetrahydrochloride (TABH). Initially, TABH was heated with polyphosphoric acid to to liberate hydrogen chloride gas and to afford 1,2,4,5-tetraaminobenzene in situ. Next, NTCA and then phosphorous pentoxide are added to the vessel and then heated under an inert and anhydrous atmosphere to effect polycondensation of NTCA and TABH in approximately equimolar amounts. This product is high melting and metallic golden-green in appearance.

reactant | 1,4,5,8-naphthalene tetracarboxylic acid | C1(=CC=C(C=2C(=CC=C(C12)C(=O)O)C(=O)O)C(=O)O)C(=O)O | C14H8O8
reactant | 1,2,4,5-tetraaminobenzene tetrahydrochloride | Cl.Cl.Cl.Cl.NC1=C(C=C(C(=C1)N)N)N
reactant | hydrogen chloride | Cl | ClH
product | 1,2,4,5-tetraaminobenzene | NC1=C(C=C(C(=C1)N)N)N | C6H10N4
